US07638533B2
A. 3-Methyl-but-2-enoic Acid (4-bromo-3-methyl-phenyl)-amide (Compound 53A)
In accordance with Scheme 15, to the solution of 4-bromo-3-methyl-phenylamine (2 g, 1 eq.) in 5 mL of CH2Cl2 was added 10 mL of 2 M NaOH followed by dropwise addition of 3,3-dimethylacryloyl chloride (1.32 mL, 1.1 eq.) in 5 mL of CH2Cl2. The reaction was allowed to stir overnight and then partitioned between EtOAc and brine. The organic layer was separated, dried over Na2SO4, filtered and the solvent was removed in vacuo to afford 2.84 g (98.6%) of product Compound 53A as beige solid. Crude product was used for the next step.

reactant | 4-bromo-3-methyl-phenylamine | 2 g, 1 eq. | BrC1=C(C=C(C=C1)N)C | C7H8BrN
reactant | NaOH | 2 M, 10 mL | [OH-].[Na+]
reactant | 3,3-dimethylacryloyl chloride | 1.32 mL, 1.1 eq. | CC(=CC(=O)Cl)C | C5H7ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-but-2-enoic Acid (4-bromo-3-methyl-phenyl)-amide | 2.84 g, 98.6% | BrC1=C(C=C(C=C1)NC(C=C(C)C)=O)C | C12H14BrNO
